US09334263B2
Synthesis of 1-(4-nitrophenyl)ethane-1,2-diol
To a stirred solution of ethyl 2-(4-nitrophenyl)-2-oxoacetate (10.0 g, 47.8 mmol) in ethanol (100 mL) was slowly added sodium borohydride (4.54 g, 119.5 mmol) at 0° C. After the addition was completed, the reaction mixture was allowed to warm to RT and stirred for 12 h. The reaction was quenched by acetone (10 mL) and concentrated. The residue was purified by silica gel column chromatography (dichloromethane/methanol=5/1) to afford the title compound (8.0 g, 87%) as a brown solid. MS (ES+) C8H9NO4 requires: 183, found: 184 [M+H]+.

reactant | ethyl 2-(4-nitrophenyl)-2-oxoacetate | 47.8 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OCC)=O | C10H9NO5
reactant | sodium borohydride | 119.5 mmol, 4.54 g | [BH4-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(4-nitrophenyl)ethane-1,2-diol | 8.0 g, 87% | [N+](=O)([O-])C1=CC=C(C=C1)C(CO)O | C8H9NO4
